US05962458
A solution of di-t-butyldicarbonate (4.52 g, 20 mmol) in THF (10 ml) was added to a solution of 2-(N-methylamino)ethanol (1.5 g, 20 mmol) in a mixture of water (10 ml) and THF (10 ml). The mixture was stirred at ambient temperature for 18 hours, the THF was removed by evaporation and the aqueous residue was partitioned between ether and water. The organic layer was washed with water, brine, dried (MgSO4) and evaporated to give 2-(N-methyl-N-(t-butylcarbonyl)amino)ethanol (3 g, 85%).

reactant | di-t-butyldicarbonate | 20 mmol, 4.52 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(N-methylamino)ethanol | 20 mmol, 1.5 g | CNCCO | C3H9NO
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-(N-methyl-N-(t-butylcarbonyl)amino)ethanol | 3 g, 85% | CN(C(=O)C(C)(C)C)CCO | C8H17NO2
